Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
confusion, abnormal labs

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Patient is a ___ w/pmh chronic mild hypoNa likely ___ SIADH, 
HTN, COPD and chronic etoh use disorder who presents with 
confusion in the setting of worsening hypoNa. 

History obtained from patient as well as her son and daughter 
who were at bedside. Patient has a long history of chronic 
asymptomatic hyponatremia (Na 130-132) thought to be due to 
SIADH and chronic tea and toast potomania ("nibbles" and drinks 
about 2 gallons of wine a week). Na was as low as 129 in ___ 
due to increased ETOH intake and very poor PO intake. After PCP 
counseling and change in her diet (more salty soups), Na was 
improved to low 130s. Per daughter in law, patient has been 
increasing her ETOH intake recently with very little PO intake. 
Family has noted increased confusion and forgetfulness over the 
past 2 weeks. Denied any speech slurring, weakness, numbness, 
recent falls.

Patient was taken to urgent care today for above sxs and noted 
to have Na 125 from baseline around 130. She was sent to ___ 
ED for further eval. Of note yesterday patient was also taken to 
___ UC yesterday for a rash on her face. She was given Keflex 
and prednisone for possible shingles. She reports the rash was 
initially itchy but never painful. Currently it feels well and 
does not bother her. 

In the ED, initial VS were: 98.9 88 123/54 16 96% RA 
  
 ED physical exam was recorded as:
Awake and alert but forgetful at times, moving all ext, CN 
II-XII
CTAB, RRR and abd NTND soft
Ext wwp, 2+ pulses
No signs of trauma
rash on right side of face

ED labs were notable for: 
Na 125
WBC 10.6
H/H 10.8/32.1
Urine sodium 42, Uosm 241

Imaging showed:
CXR:   
No acute cardiopulmonary process seen. 

Transfer VS were: 90 126/62 18 97% RA 
 
 When seen on the floor, she is alert and oriented times 3. She 
is not sure why she is in the hospital. She denies any pain 
anywhere, dysuria, abd pain, n/v, diarrhea, fever, chills. 
Reports chronic cough. Requesting sleep aid and nicotine patch.
  
REVIEW OF SYSTEMS: 
 A ten point ROS was conducted and was negative except as above 
in the HPI.

 
Past Medical History:
Purpura [D69.2] 
Alcohol dependence [F10.20] 
Emphysematous COPD [J43.9] 
Tobacco dependence [F17.200] 
HYPERTENSION - ESSENTIAL, UNSPEC [I10] 
Lisinopril
H/O solitary pulmonary nodule [___] 
Hyponatremia [___.1] c/w SIADH
RLL consolidation of chest CT -resolved. ( ___
B12 deficiency, borderline [E53.8] 
Asymptomatic PVD (peripheral vascular disease) [___.9] 
SCREENING FOR COLON CANCER [___.11] 
LICHEN SCLEROSUS ET ATROPHICUS 

 
Social History:
___
Family History:
No family history
 
Physical Exam:
On Admission: 
Gen: NAD, A&O x3, lying in bed
Eyes: EOMI, sclerae anicteric  
HEENT: MMM, OP clear. Erythematous patch on right facial and 
cervical area, with no tenderness to palpation, no induration. 
Small dry crusted areas on the overlying skin.
Cardiovasc: RRR, no MRG, full pulses, no edema  
Resp: normal effort, no accessory muscle use, lungs CTA ___.
GI: soft, NT, ND, BS+
MSK: No significant kyphosis. No palpable synovitis.
Skin: No visible rash. No jaundice.
Neuro: AAOx3. No facial droop.
Psych: Full range of affect

On Discharge:
VS: 97.8 134/59 66 18 91% RA
GEN: Well appearing in NAD, sitting up in bed
HEENT/Neck: Anicteric sclera, MMM, OP clear, neck supple.  
HEART: RRR no m/r/g
LUNGS: CTAB no wheezes, rales, or crackles.  Symmetric expansion
ABD: soft NT/ND +BS no rebound or guarding, dry cough throughout
exam, which patient states is her "smoker's cough."
EXT: warm well perfused, no pitting edema
NEURO: alert and oriented x3.  Fluent speech.  CN II-XII intact. 

No focal deficits on strength testing.
 
Pertinent Results:
On Admission:
___ 05:20PM URINE  OSMOLAL-241
___ 05:20PM URINE  HOURS-RANDOM CREAT-29 SODIUM-42
___ 01:40PM   GLUCOSE-106* UREA N-14 CREAT-0.7 SODIUM-125* 
POTASSIUM-4.7 CHLORIDE-89* TOTAL CO2-26 ANION GAP-15
___ 01:40PM   CALCIUM-9.6 PHOSPHATE-3.8 MAGNESIUM-1.8
___ 01:40PM   OSMOLAL-283
___ 01:40PM   WBC-10.6* RBC-3.47* HGB-10.8* HCT-32.1* 
MCV-93 MCH-31.1 MCHC-33.6 RDW-14.2 RDWSD-48.2*
___ 01:40PM   NEUTS-74.4* LYMPHS-14.6* MONOS-9.4 EOS-0.4* 
BASOS-0.4 IM ___ AbsNeut-7.90* AbsLymp-1.55 AbsMono-1.00* 
AbsEos-0.04 AbsBaso-0.04
___ 01:40PM   PLT COUNT-300

CXR: No acute cardiopulmonary process seen.

CT chest (___):
1.  4 mm noncalcified pulmonary nodule is stable since ___.  
Followup per ___ recommendations.
2.  COPD.

On Discharge:
___ 06:50AM BLOOD WBC-5.7 RBC-3.14* Hgb-9.8* Hct-30.0* 
MCV-96 MCH-31.2 MCHC-32.7 RDW-14.4 RDWSD-49.9* Plt ___
___ 07:15AM BLOOD Glucose-91 UreaN-12 Creat-0.6 Na-129* 
K-4.0 Cl-93* HCO3-26 AnGap-14
___ 07:15AM BLOOD Mg-1.6
___ 06:20AM BLOOD VitB12-548 Folate-2.9
___ 01:40PM BLOOD Osmolal-283
___ 06:20AM BLOOD TSH-2.9
 
Brief Hospital Course:
Patient is a ___ year old woman with history of mild chronic 
hypoNa attributed to SIADH, HTN, COPD and etoh use disorder who 
presents with confusion and worsening hypoNa. 

#Acute metabolic encephalopathy:
#Hyponatremia:
Patient's confusion and forgetfulness is likely due to acute on 
chronic hyponatremia ___ poor solute intake ("tea and toast", or 
"wine and toast") as well as possible mild SIADH (elevated UNa 
and UOsm). It is unclear why she would have SIADH, no 
intrapulmonary process on CXR.  She has a lung nodule which has 
been stable on serial imaging. DDx also includes toxic metabolic 
encephalopathy from chronic alcohol use vs alcohol withdrawal 
(although currently not exhibiting any signs). Unlikely to be 
infection (given clear CXR and UA), head trauma (no recent 
history of head strike) medication side effects (not on any 
culprit meds).  Na improved to recent baseline with free water 
restriction and salt tabs.  She was encouraged to increase her 
solute intake.  TSH, B12, folate wnl. B1 pending on discharge.

Given her encephalopathy, ___ and OT were consulted and found 
significant deficits concerning for her safety.  Her MMSE was 
___ suggestive of mild-moderate cognitive impairment.  Her 
family echoed these concerns about safety at home and she is now 
discharged to rehab. She should have cognitive neurology follow 
up as an outpatient. 

#Facial Rash: 
Mild cellulitis vs dermatitis with faint erythema, induration.  
Does not appear to be shingles given lack of a dermatomal 
distribution and no vescicular lesions.  In the outpatient 
setting was given Keflex and steroid.  Her Keflex should be 
continued through ___ to complete a ___TOH use disorder
#Fall safety risk: 
Per daughter in law, patient has longstanding history of ETOH 
use disorder (about 2 gallons a wine per week), with prior 
history of falls (twice last year). She was able to ambulate 
independently at home, however now needs help with paying bills. 
Family is concerned about patient's ability to take care of 
herself at home and have entertained the possibility of 
placement.  See above for evaluation.  She did not trigger on 
CIWA

#HTN: Continued Lisinopril 40 mg PO and amLODIPine 10 mg PO 
DAILY 

Chronic issues: COPD stable
- Continued ASA
- Continued vitamin B12 and D

# Code status: DNR/DNI (confirmed with pt/family)

Transitional:
- Patient will need to be scheduled for follow up with cognitive 
neurology
- Continue Keflex through ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 40 mg PO DAILY 
2. amLODIPine 10 mg PO DAILY 
3. Vitamin D 1000 UNIT PO DAILY 
4. Cyanocobalamin 1000 mcg PO 3X/WEEK (___) 
5. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Cephalexin 500 mg PO Q6H  
2.  Docusate Sodium 100 mg PO BID 
do not take if you are having loose stools  
3.  FoLIC Acid 1 mg PO DAILY  
4.  Multivitamins 1 TAB PO DAILY  
5.  Nicotine Patch 7 mg TD DAILY  
6.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
7.  Senna 8.6 mg PO BID:PRN constipation  
8.  Sodium Chloride 1 gm PO BID  
9.  Thiamine 100 mg PO DAILY  
10.  TraZODone 25 mg PO QHS:PRN insomnia  
11.  amLODIPine 10 mg PO DAILY  
12.  Aspirin 81 mg PO DAILY  
13.  Cyanocobalamin 1000 mcg PO 3X/WEEK (___)  
14.  Lisinopril 40 mg PO DAILY  
15.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Acute metabolic encephalopathy
Hyponatremia, SIADH
Mild cognitive impairment

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Patient admitted with increased confusion at home and worsened 
hyponatremia.  Improved with fluid restriction.  Found to have 
cognitive impairment and safety concerns at home.  Rehab 
recommended as well as follow up with a neurologist.  Please 
encourage alcohol cessation, encourage salt intake, and water 
restriction to 1.5-2L per day
 
Followup Instructions:
___